US06410550B1
A) 1-(4,5-Diamino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoroethanone
1-(4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7 ]dodeca-2(7), 3,5-trien-10-yl)-2,2,2-triflouro-ethanone (3.0 g, 8.70 mmol) was hydrogenated in MeOH (30 ml) under H2 (45 psi) over Pd(OH)2 (300 mg of 20 wt %/C, 10% wt). After 2.5 hours the reaction was filtered through a Celite pad and rinsed with MeOH (30 ml). The solution was concentrated to a light brown oil which crystallized (2.42 g, 96% ). (TLC 10% MeOH/CH2Cl2 Rf0.56). APCl MS m/e 286.2[(M+1)+]. mp 129-131° C.

reactant | 1-(4,5-Dinitro-10-aza-tricyclo[6.3.1.02,7 ]dodeca-2(7), 3,5-trien-10-yl)-2,2,2-triflouro-ethanone | 8.70 mmol, 3.0 g | [N+](=O)([O-])C1=CC=2C3CN(CC(C2C=C1[N+](=O)[O-])C3)C(C(F)(F)F)=O | C13H10F3N3O5
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd(OH)2 | 300 mg | [OH-].[OH-].[Pd+2]
product | 1-(4,5-Diamino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoroethanone | NC1=CC=2C3CN(CC(C2C=C1N)C3)C(C(F)(F)F)=O | C13H14F3N3O
